US06573263B2
70 mg (0.14 mmol) of 7-[(3E)-1-acetyl-4-phenyl-3-butenyl]-2-(3,4-dimethoxy-benzyl)-5-methylimidazo[5,1-f][1,2,4]triazin-4(3H)-one are reacted analogously to Example 12 with 5 mg (0.14 mmol) of sodium borohydride to give 2-(3,4-dimethoxybenzyl)-7-[(3E)-1-1-hydroxyethyl)-4-phenyl-3-butenyl]-5-methylimidazo-[5,1-f][1,2,4]triazin-4(3H)-one.

reactant | 7-[(3E)-1-acetyl-4-phenyl-3-butenyl]-2-(3,4-dimethoxy-benzyl)-5-methylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | 0.14 mmol, 70 mg | C(C)(=O)C(C\C=C\C1=CC=CC=C1)C1=NC(=C2C(NC(=NN21)CC2=CC(=C(C=C2)OC)OC)=O)C | C27H28N4O4
reactant | sodium borohydride | 0.14 mmol, 5 mg | [BH4-].[Na+]
product | 5-methylimidazo-[5,1-f][1,2,4]triazin-4(3H)-one | CC=1N=CN2N=CNC(C21)=O | C6H6N4O
